US07057046B2
(R)-3-t-butyloxycarbonylamino-1-methyl-3,4-dihydrocarbostyril (20 mg) was dissolved in 4 M hydrogen chloride in 1,4-dioxane solution (5 mL) at room temperature. After 1 h the solvent was evaporated under vacuum, and the residue was twice taken up in toluene (5 mL) and evaporated under vacuum to provide (R)-3-amino-1-methyl-3,4-dihydrocarbostyril hydrochloride (25 mg).

reactant | (R)-3-t-butyloxycarbonylamino-1-methyl-3,4-dihydrocarbostyril | 20 mg | C(C)(C)(C)OC(=O)N[C@H]1C(N(C2=CC=CC=C2C1)C)=O | C15H20N2O3
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-3-amino-1-methyl-3,4-dihydrocarbostyril hydrochloride | 25 mg | Cl.N[C@H]1C(N(C2=CC=CC=C2C1)C)=O | InChI=1S/C10H12N2O.ClH/c1-12-9-5-3-2-4-7(9)6-8(11)10(12)13;/h2-5,8H,6,11H2,1H3;1H/t8-;/m1./s1
